US07910613B2
2-(1H-Tetrazol-5-yl)-1-thiophen-2-yl-ethanone
A mixture of 2-thenoylacetonitrile (9 g, 59.3 mmol), Sodium azide (4.33 g, 66.7 mmol) and triethylammoniumchloride (9.14 g, 66.9 mmol) was stirred in dry toluene (139 mL) under argon atmosphere at 90° C. for 18 hrs. A two-phase system was formed, cooled and extracted with NaOH (2M, 3×500 mL), and the aqueous solution was poured into hydrochloric acid (4M, 300 mL) and the crude tetrazole was filtered off and recrystalised from acetonitrile. Yield: 43.5%.

reactant | 2-thenoylacetonitrile | 59.3 mmol, 9 g | C1(=CC=CS1)C(=O)CC#N | C7H5NOS
reactant | Sodium azide | 66.7 mmol, 4.33 g | [N-]=[N+]=[N-].[Na+]
reactant | triethylammoniumchloride | 66.9 mmol, 9.14 g | [Cl-].C(C)[NH+](CC)CC
solvent | toluene | 139 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(1H-Tetrazol-5-yl)-1-thiophen-2-yl-ethanone | Yield: 43.5% | N1N=NN=C1CC(=O)C=1SC=CC1 | C7H6N4OS
